US05624943
Under the conditions of example 5A, 6.2 g of N-(3-iodophenyl)-1,1,1-trifluoromethanesulfonamide is reacted with 2.07 g of trimethylsilylacetylene, worked up, and the crude product is chromatographed on silica gel with hexane/0-25% ethyl acetate. 2.72 g of N-[3-(2-trimethylsilylethinyl)-phenyl]-1,1,1-trifluoromethanesulfonamide is obtained as yellow oil.

reactant | N-(3-iodophenyl)-1,1,1-trifluoromethanesulfonamide | 6.2 g | IC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F | C7H5F3INO2S
reactant | trimethylsilylacetylene | 2.07 g | C[Si](C)(C)C#C | C5H10Si
product | N-[3-(2-trimethylsilylethinyl)-phenyl]-1,1,1-trifluoromethanesulfonamide | 2.72 g | C[Si](C#CC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F)(C)C | C12H14F3NO2SSi
